US09290451B2
c) 5-Chloro-6-(3-chloro-phenyl)-pyridine-2-carboxylic acid
Under nitrogen atmosphere, 6-bromo-5-chloro-pyridine-2-carboxylic acid (0.38 g, 1.6 mmol), 3-chlorophenylboronic acid (CAN 63503-60-6, 0.33 g, 2.1 mmol), 1,1′-bis(diphenylphosphino)-ferrocene-palladium(II) dichloride methylene chloride complex (CAN 95464-05-4, 30 mg) and cesium carbonate (CAN 534-17-8, 1.6 g, 4.8 mmol) was added into DMF (30 mL). The mixture was stirred at 80° C. overnight. After evaporation of solvents, the crude product was purified by column chromatography (silica gel, 12 g, petroleum ether/ethyl acetate 4/1 firstly, then methanol/methylene chloride 1/10) to give the title compound (0.14 g, 32%) as brown solid; MS (EI): m/e=268.0 [M+H]+.

reactant | 6-bromo-5-chloro-pyridine-2-carboxylic acid | 1.6 mmol, 0.38 g | BrC1=C(C=CC(=N1)C(=O)O)Cl | C6H3BrClNO2
reactant | 3-chlorophenylboronic acid | 2.1 mmol, 0.33 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | cesium carbonate | 4.8 mmol, 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene palladium(II) dichloride methylene chloride | 30 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].C(Cl)Cl.[Pd](Cl)Cl
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-6-(3-chloro-phenyl)-pyridine-2-carboxylic acid | 0.14 g, 32% | ClC=1C=CC(=NC1C1=CC(=CC=C1)Cl)C(=O)O | C12H7Cl2NO2
